US07226942B2
Part V: 3-Benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene
A solution of 3-isocyanato-1-oxo-1,2,3,4-tetrahydronaphthalene (10 g), benzyl alcohol (7.3 g), dry pyridine (3 mL), and benzene (50 mL) was refluxed for 90 min. At the conclusion of this period, the solution was cooled to room temperature, diluted with benzene (150 mL), and then washed with 5% aqueous hydrochloric acid solution (60 mL twice). The organic layer was dried and evaporated under vacuum to yield a residue. The residue was crystallized by dissolving in benzene (35 mL) and diluting with petroleum ether (25 mL). Crystals thus obtained were recrystallized in the same manner to obtain the title compound (6.6 g, mp 79.5–81.5° C.).

reactant | 3-isocyanato-1-oxo-1,2,3,4-tetrahydronaphthalene | 10 g | N(=C=O)C1CC(C2=CC=CC=C2C1)=O | C11H9NO2
reactant | benzyl alcohol | 7.3 g | C(C1=CC=CC=C1)O | C7H8O
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 3-Benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene | 6.6 g | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)=O | C18H17NO3
